US05587486
N-methoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester (100 mg, 0.290 mmol) was dissolved in methanol (3 ml), to which sodium methoxide (28% methanol solution, 1 ml) was added and stirred at room temperature overnight. The reaction mixture was poured into ice water and extracted with diethyl ether. After washing the liquid extract with an aqueous solution of sodium chloride and drying over sodium sulfate, the solvent was distilled off. The residue was purified by silica gel column chromatography to obtain 46.7 mg (yield 48%) of 4,5-dihydrobenzo[b]thiophene-6-carboxylic acid methyl ester as white crystalline solids. 1H-NMR spectra (chemical shift, ppm: in CDCl3): 2.68 (2H, m), 2.84 (2H, m), 3.79 (3H, s), 6.90 (1H, d, J=4.9 Hz), 7.31 (1H, d, J=4.9 Hz), 7.53 (1H, s).

reactant | N-methoxycarbonyl-N-phenyl-7-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-6-carboxylic acid methyl ester | 0.290 mmol, 100 mg | COC(=O)C1CCC2=C(SC=C2)C1N(C1=CC=CC=C1)C(=O)OC | C18H19NO4S
solvent | methanol | 3 ml | CO | CH4O
solvent | sodium methoxide | 1 ml | C[O-].[Na+]
product | 4,5-dihydrobenzo[b]thiophene-6-carboxylic acid methyl ester | 46.7 mg, yield 48% | COC(=O)C=1CCC2=C(SC=C2)C1 | C10H10O2S
